2166-03-19 07:22:00 Physician Resident Progress Note
Chief Complaint: EtOH withdrawal
   24 Hour Events:
 ULTRASOUND - At [**2166-3-18**] 10:00 AM
   USG bilat lower extremity to R/O AV fistula
   Yesterday went into DT, agitated, combatative, spitting on RN, babbling
   and incoherent speech, CIWA 29-37.
   Since 5PM [**3-18**], given total 15 PO and 35 IV mg Valium, total Ativan 15mg
   IV, total halidol 25mg IV.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Kefzol (Intraven.) (Cefazolin Sodium)
   Rash;
   Ibuprofen
   Dyspepsia;
   Ketoconazole
   Unknown;
   Adhesive Tape (Topical)
   Rash;
   Shellfish Derived
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-3-19**] 04:53 AM
   Haloperidol (Haldol) - [**2166-3-19**] 05:14 AM
   Lorazepam (Ativan) - [**2166-3-19**] 06:22 AM
   Diazepam (Valium) - [**2166-3-19**] 07:05 AM
   Other medications:
   Flowsheet Data as of  [**2166-3-19**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 137 (66 - 137) bpm
   BP: 147/98(146) {0/70(78) - 163/113(146)} mmHg
   RR: 33 (11 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,375 mL
                                                                    898 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                    865 mL
                                                                    898 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    470 mL
   Urine:
                                                                  2,105 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -730 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   GEN: incoherent, not oriented, not following commands, less combative
   HEENT: PERRL, EOM intact
   Neck: supple
   Pulm: clear bilaterally
   Cor: RRR, no murmurs
   Abd: soft, diffusely tender throughout, but no rebound/guarding
   Extr: tremulous
   Groin: mild echhymosis at R fem site, no bruit, unchanged from prior
   night
   Labs / Radiology
   122 K/uL
   12.0 g/dL
   98 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.2 mEq/L
   8 mg/dL
   104 mEq/L
   134 mEq/L
   34.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2166-3-18**]  02:23 AM
                             [**2166-3-19**]  04:10 AM
   WBC
   6.3
   8.0
   Hct
   32.8
   34.5
   Plt
   97
   122
   Cr
   0.5
   0.6
   Glucose
   120
   98
   Other labs: PT / PTT / INR:17.1/28.2/1.5, ALT / AST:22/80, Alk Phos / T
   Bili:148/1.4, Albumin:3.2 g/dL, LDH:317 IU/L, Ca++:8.5 mg/dL, Mg++:1.6
   mg/dL, PO4:1.8 mg/dL
   Imaging: U/S R Fem: IMPRESSION: No evidence for AV fistula.
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
   39 y.o. man s/p fall, intoxicated. Now withdrawing from ETOH and in
   active DTs.
   .
   # ETOH withdrawl/DT: Currently in DT, CIWA overnight 20-30
   - CIWA Q1H with IV ativan or PO valium
   - Haldol as needed for agitation
   - continue MVI, folate, thiamine  (use banana bag when not taking POs)
   - SW f/u when able
   - continue seizure precautions
   - reassess needs for 4 pt restraints
   - Psych consult
   .
   # Bipolar disorder. Per PCP and patient, he has not followed up with
   his psychiatrist and not filled his meds (Prozac 40mg daily, Seroquel
   200mg QHS, and Risperdal 1mg QHS).
   - holding home psych meds
   - will need psych consult when clinically more stable
   # C-collar. CT neck did not show malalignment or fracture. Pt self
   d/c
d c-collar yesterday
   .
   # R femoral hematoma. No evidence expansion per surgical team. Occured
   in setting of femoral triple lumen catheter. And Vascular U/S without
   AV fistula
   .
   # Abdominal pain. Could be related to ETOH withdrawl, but will need to
   look out for pancreatitis. Lipase is normal.  Today, not complaining of
   abd pain
   - CT abd not revealing of etiology
   .
   Contact: patient
   PCP [**First Name8 (NamePattern2) 246**] [**Name (NI) 7308**], MD. Located at [**Location (un) 1034**] House, [**Telephone/Fax (1) 7309**].
   Pt has appointment with Dr. [**Last Name (STitle) 7308**] on [**2166-4-8**] @ 5:15PM
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   22 Gauge - [**2166-3-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Decreased HCO3
 unclear etiology
   - repeat [**Name (NI) 7364**], may need further w/u if still decreased
   ------ Protected Section Addendum Entered By:[**Name (NI) 7247**] [**Name8 (MD) 1257**], MD
   on:[**2166-3-19**] 09:04 ------

2166-03-21 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - did well overnight, required only small amounts of Ativan
   - not called out [**12-16**] nursing care
   - complained of abdominal pain this morning
   Allergies:
   Penicillins
   Unknown;
   Kefzol (Intraven.) (Cefazolin Sodium)
   Rash;
   Ibuprofen
   Dyspepsia;
   Ketoconazole
   Unknown;
   Adhesive Tape (Topical)
   Rash;
   Shellfish Derived
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2166-3-21**] 01:45 AM
   Heparin Sodium (Prophylaxis) - [**2166-3-21**] 04:00 AM
   Lorazepam (Ativan) - [**2166-3-21**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 104 (61 - 116) bpm
   BP: 155/90(118) {120/70(81) - 170/99(118)} mmHg
   RR: 21 (17 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,140 mL
                                                                    553 mL
   PO:
                                                                    830 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,310 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    200 mL
   Urine:
                                                                  1,720 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    420 mL
                                                                    353 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GEN: resting comfortably, somnolent without agitation, with garbled
   speech
   HEENT: dry MM
   Pulm: clear bilaterally
   Cor: RRR, no murmurs
   Abd: soft, NT/ND
   NEURO: somnolent but arouses to voice and stimulation, MAE
   Labs / Radiology
   107 K/uL
   10.0 g/dL
   101 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   9 mg/dL
   103 mEq/L
   135 mEq/L
   31.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2166-3-18**]  02:23 AM
                             [**2166-3-19**]  04:10 AM
                             [**2166-3-19**]  12:08 PM
                             [**2166-3-20**]  12:00 AM
                             [**2166-3-20**]  05:56 AM
                             [**2166-3-20**]  06:00 AM
                             [**2166-3-20**]  04:18 PM
                             [**2166-3-21**]  03:57 AM
   WBC
   6.3
   8.0
   7.4
   6.4
   Hct
   32.8
   34.5
   32.9
   31.0
   Plt
   97
   122
   104
   107
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   Glucose
   120
   98
   138
   106
   102
   121
   115
   101
   Other labs: PT / PTT / INR:16.3/33.2/1.5, ALT / AST:35/97, Alk Phos / T
   Bili:166/0.9, Amylase / Lipase:/43, Albumin:2.9 g/dL, LDH:317 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
   39 y.o. man s/p fall, intoxicated. Now withdrawing from ETOH.
   # ETOH withdrawal vs. benzo intoxication: Improving. Last drink [**2166-3-16**]
   evening. He was in DTs requiring large amounts of benzos and PRN
   haldol. Currently, he continues to have garbled speech.
   - change PO valium 10mg q 2hrs to valium 5mg q 2hrs for CIWA>10
   - DC IV ativan
   - use haldol 5 mg IV q6H PRN agitation
   - continue multivitamins/folate/thiamine daily
   - appreciate social work and psych recs
   - recheck EKG this AM
   # Metabolic acidosis: Resolved. Bicarb nadir at 20, now improving to
   26. Had mild AG of 14 now resolved. Had ketones in urine suggesting
   alcoholic ketoacidosis
   - continue to trend daily bicarb
   - feed
   # Abdominal pain. Could be related to ETOH withdrawl, but will need to
   look out for pancreatitis. LFTs and Lipase normal. CT abd not revealing
   of etiology. ? SQ Heparin shot location.
   - monitor
   # C-collar. CT neck did not show malalignment or fracture. Pt
s neck
   cleared when he was lucid.
   # R femoral hematoma. No evidence expansion per surgical team. Occured
   in setting of femoral triple lumen catheter.
   - monitor
   # Bipolar disorder. Per PCP and patient, he has not followed up with
   his psychiatrist and not filled his meds (Prozac 40mg daily, Seroquel
   200mg QHS, and Risperdal 1mg QHS).
   - hold on psych meds for now
   - appreciate psych and SW consults
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2166-3-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: consider transfer to psych vs floor